US07919630B2
3-tert-Butyl-5-isopropyl-2-thiohydantoin
Sparteine (0.94 g, 0.0040 mol) was dissolved in 2 mL of THF in a flask equipped with a magnetic stirrer, septum, and nitrogen pressure. The flask was immersed in a −40° bath, and a 1.6 M ethereal solution of methyllithium (2.5 mL, 0.0040 mol) was added by syringe. Then a solution of 3-t-butyl-5-ethylidenethiohydantoin (0.20 g, 0.0010 mol) in 2 mL of THF was added dropwise by syringe over 20 min. After 1 hr, HPLC analysis showed no starting material. The reaction mixture was diluted with 5 mL of saturated aqueous NH4Cl, then 4 mL of 1 M HCl, and then 10 mL of EtOAc. The layers were separated, and the organic layer was washed with 2×30 mL of 1 M HCl. The solvent was removed at aspirator pressure, and the residue was reconcentrated×3 from small amounts of dichloromethane. An HPLC trace at 270 nm revealed a purity of only 71% for the major product, although there was no major impurity. NMR (CDCl3) δ 8.5 (bs, 1H), 3.8 (m, 1H), 0.9-2.8 (m, 16H). It is notable that the methyls of the isopropyl group are magnetically nonequivalent.

reactant | Sparteine | 0.0040 mol, 0.94 g | C1CCN2C[C@H]3C[C@@H]([C@H]2C1)CN4[C@H]3CCCC4 | C15H26N2
reactant | methyllithium | 0.0040 mol, 2.5 mL | C[Li]
reactant | 3-t-butyl-5-ethylidenethiohydantoin | 0.0010 mol, 0.20 g | C(C)(C)(C)N1C(NC(C1=O)=CC)=S | C9H14N2OS
reactant | HCl | 1 M, 4 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 3-tert-Butyl-5-isopropyl-2-thiohydantoin | C(C)(C)(C)N1C(NC(C1=O)C(C)C)=S | C10H18N2OS
